US05508396
N-n-Octylpyrrolidone (NOP; N-n-Octylbutyrolactam)
230 g of a 31.98 wt. % strength potassium methoxide-methanol solution (1.05 mol) is added dropwise at about 155° C., while distilling methanol to a solution of 85.2 g of 2-pyrrolidone (butyrolactam, 1.0 mol) in 500 ml of diethylene glycol dimethyl ether. For complete removal of all the methanol, the clear solution is evacuated for a short period until reaching 500 mbar. 156 g of n-octyl chloride (1.05 mol) is then metered in likewise at 155° C. over a period of 20 minutes, and the reaction is brought to completion over a period of another 6 hours.

reactant | potassium methoxide methanol | 1.05 mol | C[O-].[K+].CO
reactant | methanol | CO | CH4O
reactant | 2-pyrrolidone | 1.0 mol, 85.2 g | N1C(CCC1)=O | C4H7NO
reactant | n-octyl chloride | 1.05 mol, 156 g | C(CCCCCCC)Cl | C8H17Cl
solvent | diethylene glycol dimethyl ether | 500 ml | COCCOCCOC | C6H14O3
product | N-n-Octylpyrrolidone | C(CCCCCCC)N1C(CCC1)=O | C12H23NO
